US07569592B2
A solution of 2-(4-bromo-1H-pyrazol-1-yl)pyridine (0.669 g, 3 mmol), 3-chlorophenylboronic acid (0.468 g, 3 mmol) and potassium carbonate (0.828 g, 6 mmol) in a mixture of ethyleneglycol dimethyl ether (20 mL) and H2O (4 mL) were degassed by argon bubbling for 15 min., then tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol) was added and degasing continued a further 15 min. The solution was stirred at 70° C. for 14 h, whereupon H2O (30 mL) was added, then extracted with EtOAc (3×30 mL) and the combined extracts washed with brine. The organic phase was dried over Na2SO4, concentrated in vacuo and the crude residue was chromatographed on silica gel eluting with EtOAc:hexane (1:4) to afford a white solid which was recrystallized from EtOAc/Hexane to give 2-[4(3-chlorophenyl)-1H-pyrazol-1-yl]pyridine. MP=110-111° C. 1H NMR (CD3Cl, 300 MHz) δ 8.83 (d, 1H), 8.42 (dd, 1H), 7.99 (s, 1H), 7.99 (d, 1H), 7.82 (ddd, 1H), 7.57 (t, 1H), 7.45 (dt, 1H), 7.32 (t, 1H), 7.25˜7.18 (m, 2H). MS (ESI) 255.9 (M++H).

reactant | 2-(4-bromo-1H-pyrazol-1-yl)pyridine | 3 mmol, 0.669 g | BrC=1C=NN(C1)C1=NC=CC=C1 | C8H6BrN3
reactant | 3-chlorophenylboronic acid | 3 mmol, 0.468 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 6 mmol, 0.828 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyleneglycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | H2O | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4(3-chlorophenyl)-1H-pyrazol-1-yl]pyridine | ClC=1C=C(C=CC1)C=1C=NN(C1)C1=NC=CC=C1 | C14H10ClN3
